US06150373
A solution of 6.5 g (16 mmol) 4-[2-(tert-butyldiphenylsilyloxy)ethyl]nitrobenzene in methanol (30 ml) containing 750 mg of 10% palladium on carbon was hydrogenated at room temperature and atmospheric pressure for 2 hours. The catalyst was removed by filtration and the solvent evaporated to give 5.7 g of 4-[2-(tert-butyldiphenylsilyloxy)ethyl]phenylamine as a colorless liquid. [Mass spectrum (ESI) MH+ =376].

reactant | 4-[2-(tert-butyldiphenylsilyloxy)ethyl]nitrobenzene | 16 mmol, 6.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=CC=C(C=C1)[N+](=O)[O-] | C24H27NO3Si
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 750 mg | [Pd] | Pd
product | 4-[2-(tert-butyldiphenylsilyloxy)ethyl]phenylamine | 5.7 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=CC=C(C=C1)N | C24H29NOSi
